US07902369B2
1) Manufacture of ethyl(6-bromoimidazo[1,2-a]pyridine-2-yl)acetate
4.90 ml of ethyl4-chloro-3-oxobutanoate was dissolved in 50 ml of ethanol, 5.19 g of 2-amino-5-bromopyridine was added, and the mixture was stirred all night by heating under reflux. After cooling down to room temperature, the solvents were distilled outunder reduced pressure, and then, ethyl acetate followed by saturated sodium bicarbonate aqueous solution were added. Organic layer was dried with anhydrous sodium sulfate, and the solvents were distilled outunder reduced pressure. The obtained residues were purified by preparative thin-layer chromatography (hexane:ethyl acetate=60:40) to obtain 9.49 mg of the above compound as a white solid.

reactant | ethyl4-chloro-3-oxobutanoate | 4.90 ml | C(C)OC(CC(CCl)=O)=O | C6H9ClO3
reactant | 2-amino-5-bromopyridine | 5.19 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl(6-bromoimidazo[1,2-a]pyridine-2-yl)acetate | 9.49 mg | C(C)OC(CC=1N=C2N(C=C(C=C2)Br)C1)=O | C11H11BrN2O2
